* 5TH-ORDER LOW-PASS FILTER
* designed with a cut-off frequency of 10kHz

V1 1 0 type=vdc vdc=0 type=vac vac=1
R1 1 2 1
L1 2 3 9.84u
L2 3 4 31.83u
L3 4 5 9.84u
C1 0 3 25.75u
C2 0 4 25.75u
R2 0 5 1
.op
.AC type=log nsteps=100 start=1 stop=20k
.END
