* Diode and Resistor - DC Sweep test

V1 1 0 type=vdc vdc=5
R1 1 2 5k
D1 2 0 D
* standard
*.model D d
* 1N914
.model D d IS=2.52n RS=0.568 N=1.752
.dc src=V1 start=0 stop=2 step=0.01


