* Test of Controlled Sources
* ************************ *
* COD, TOR, JD
* ref: Circuit Theory 
*       - Dr. T. Siriburanon

V1 1 0 type=vdc vdc=5
R1 1 0 50
* CCVS
H1 2 0 V1 0.7
R2 2 3 5k
R3 3 0 1k

.op
.end
