* DIODE OP test
* COD, TOR, JD
* Simple circuit of diode in
* in series with resistance
* and voltage source

v1 1 0 type=vdc vdc=5
R1 2 1 5000
D1 2 0 D

.model D d 
.op
