* Test of Linear Components 
* (controlled and independent)
* ****************************
* COD, TOR, JD
* ref: Circuit Theory - Dr. T. Siriburanon

V1 1 0 type=vdc vdc=5
R1 1 2 10k
* CCCS
F1 0 2 V1 1.2
R2 2 4 300
R3 2 3 1k
* Isource
I1 0 3 type=idc idc=2m type=iac iac=1
R4 3 4 3meg

.op
.end

